US08003806B2
3-Phenyl-3-(4-{4-[(1,4,5,6-tetrahydro-2-pyrimidinylamino)carbonyl]-1-piperidinyl}-1H-benzimidazol-1-yl)propanoic acid
A solution of methyl 3-phenyl-3-(4-{4-[(1,4,5,6-tetrahydro-2-pyrimidinylamino)carbonyl]-1-piperidinyl}-1H-benzimidazol-1-yl)propanoate (17 mg, 24 μmol) in hydrochloric acid (10 mL of a 5N solution) was stirred at room temperature for 48 hours. The solution was evaporated in vacuo, and the residue purified by RP-HPLC to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=3.5 min, MH+ 475].

reactant | methyl 3-phenyl-3-(4-{4-[(1,4,5,6-tetrahydro-2-pyrimidinylamino)carbonyl]-1-piperidinyl}-1H-benzimidazol-1-yl)propanoate | 24 μmol, 17 mg | C1(=CC=CC=C1)C(CC(=O)OC)N1C=NC2=C1C=CC=C2N2CCC(CC2)C(=O)NC=2NCCCN2 | C27H32N6O3
solvent | hydrochloric acid | Cl | ClH
product | 3-Phenyl-3-(4-{4-[(1,4,5,6-tetrahydro-2-pyrimidinylamino)carbonyl]-1-piperidinyl}-1H-benzimidazol-1-yl)propanoic acid | C1(=CC=CC=C1)C(CC(=O)O)N1C=NC2=C1C=CC=C2N2CCC(CC2)C(=O)NC=2NCCCN2 | C26H30N6O3
